US08791161B2
N-{4-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1,3-thiazol-2-yl}acetamide
Following General Procedure A, B, the title compound was prepared from 2-amino-4-chloro-benzenethiol, N-(4-Chloromethyl-thiazol-2-yl)-acetamide and 1-benzofuran-2-sulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | N-(4-Chloromethyl-thiazol-2-yl)-acetamide | ClCC=1N=C(SC1)NC(C)=O | C6H7ClN2OS
reactant | 1-benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N-{4-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}thio)methyl]-1,3-thiazol-2-yl}acetamide | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCC=2N=C(SC2)NC(C)=O | C20H16ClN3O4S3
